US07282588B2
4-bromo-1-ethyl-3-(4-nitrophenyl)-1H-pyrazole
A 0° C. solution of 4-bromo-3-(4-nitrophenyl)-1H-pyrazole (485 mmol) in N,N-dimethylformamide (1000 mL) was slowly treated with sodium hydride (485 mmol) and then iodoethane (582 mmol). The reaction mixture was stirred for 30 minutes at room temperature and then poured into ice-water (1000 mL). Product precipitated out of solution and was collected by filtration, washed with water (4×500 mL) and dried to provide the title product as a light brown powder (94%). ESMS [M+H]+: 297.2

reactant | 4-bromo-3-(4-nitrophenyl)-1H-pyrazole | 485 mmol | BrC=1C(=NNC1)C1=CC=C(C=C1)[N+](=O)[O-] | C9H6BrN3O2
reactant | sodium hydride | 485 mmol | [H-].[Na+]
reactant | iodoethane | 582 mmol | ICC | C2H5I
solvent | N,N-dimethylformamide | 1000 mL | CN(C=O)C | C3H7NO
product | 4-bromo-1-ethyl-3-(4-nitrophenyl)-1H-pyrazole | 94% | BrC=1C(=NN(C1)CC)C1=CC=C(C=C1)[N+](=O)[O-] | C11H10BrN3O2
